US08217032B2
1-(2-{4-[2-(2,5-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine hydrochloride
Combine trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester (154 mg, 0.29 mmol), 2,5-difluorophenyl boronic acid (139 mg, 0.88 mmol), [1,1′-bis(diphenylphosphino)-ferrocene)dichloropalladium (II), complex with dichloromethane (1:1) (239 mg, 0.29 mmol), cesium fluoride (400 mg, 2.63 mmol) and acetonitrile (6 mL), stir and heat at 90° C. After 4 hours, cool to ambient temperature and remove solvent under vacuum. Suspend and sonicate the residue in ethyl ether, filter and remove the solvent under vacuum. Chromatograph the crude mixture on silica gel with dichloromethane/methanol mixtures, combine fractions containing product, add 1M hydrogen chloride in ether (1 mL) and remove solvent under vacuum to give 140 mg of the title compound: mass spectrum (ion spray) m/z=490 (M−Cl).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-phenoxy]-naphthalen-2-yl ester | 0.29 mmol, 154 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H26F3NO6S
reactant | 2,5-difluorophenyl boronic acid | 0.88 mmol, 139 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | dichloromethane | 0.29 mmol, 239 mg | ClCCl | CH2Cl2
reactant | cesium fluoride | 2.63 mmol, 400 mg | [F-].[Cs+]
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene)dichloropalladium (II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 1-(2-{4-[2-(2,5-Difluoro-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenoxy}-ethyl)-piperidine hydrochloride | 140 mg | Cl.FC1=C(C=C(C=C1)F)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | InChI=1S/C30H29F2NO3.ClH/c1-34-25-11-13-26-21(19-25)5-12-27(28-20-22(31)6-14-29(28)32)30(26)36-24-9-7-23(8-10-24)35-18-17-33-15-3-2-4-16-33;/h5-14,19-20H,2-4,15-18H2,1H3;1H
